US07915424B2
(a) 3-Methoxy-5-trimethylsilanylethynyl-pyridine
Add (trimethylsilyl)acetylene (1.3 mL, 9.45 mmol) and bis(triphenylphosphine)palladium (II) dichloride (0.102 g, 0.15 mmol) to a mixture of 3-bromo-5-methoxypyridine from PREPARATION 9 (1.366 g, 7.26 mmol), copper (I) iodide (0.055 g, 0.29 mmol) and triethylamine (4.1 mL, 29.04 mmol) in ethyl acetate (7.5 mL) in a sealed tube. Stir the resultant reaction mixture at 75° C. for 20 h and cool to room temperature. Dilute the reaction mixture with ethyl acetate and filter through a pad of diatomaceous earth. Wash with ethyl acetate and concentrate the filtrate to give the title compound as a solid which is used without further purification (1.48 g, 100%).

reactant | (trimethylsilyl)acetylene | 9.45 mmol, 1.3 mL | C[Si](C)(C)C#C | C5H10Si
reactant | 3-bromo-5-methoxypyridine | BrC=1C=NC=C(C1)OC | C6H6BrNO
reactant | triethylamine | 29.04 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 7.5 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium | 0.15 mmol, 0.102 g | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.29 mmol, 0.055 g | [Cu]I
product | 3-Methoxy-5-trimethylsilanylethynyl-pyridine | COC=1C=NC=C(C1)C#C[Si](C)(C)C | C11H15NOSi
